US07622538B2
1st Stage: 1,3-bis-(N-acryloyl-N-propyl-amino)-2-hydroxypropane
17.43 g (0.100 mol) of 1,3-bis-(propylamino-propan-2-ol was mixed with 110 ml (0.220 mol) of 2N caustic soda solution and stirred at room temperature for 10 minutes. The mixture was cooled to 0° C. A solution of 19.46 g (0.215 mol) of acrylic acid chloride and 20 mg of BHT in 120 ml of chloroform was added dropwise at 0° C. within 3 hours 30 minutes. After the addition was completed the reaction mixture was stirred at 0° C. for 2 hours 30 minutes. Organic and aqueous phases were separated. The aqueous phase was saturated with NaCl and extracted with 5×80 ml of methylene chloride. The combined organic phases were dried over Na2SO4, filtered, concentrated in a rotary evaporator after addition of 20 mg of BHT and dried in a fine vacuum. The raw product was purified by means of two-fold column chromatography (silica gel 60, 0.035-0.070 mm, ethyl acetate). 11.92 g (42.2 mmol; 42%) of the pure product was obtained as a yellowish oil.

reactant | propylamino-propan-2-ol | C(CC)NCC(C)O | C6H15NO
reactant | caustic soda | 0.220 mol, 2N, 110 ml | [OH-].[Na+]
reactant | acrylic acid chloride | 0.215 mol, 19.46 g | C(C=C)(=O)Cl | C3H3ClO
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-bis-(N-acryloyl-N-propyl-amino)-2-hydroxypropane | C(C=C)(=O)N(CCC)CC(CN(C(C=C)=O)CCC)O | C15H26N2O3
